* /Users/fumiyatanaka/Work/LSI/sample_test_bench.asc
V1 IN 0 SINE(0 {vsig} {fsig}) AC 1
Rs IN N002 100
Co N004 OUT 220µ
RL OUT 0 600
VDD VDD 0 {VDD}
I1 VDD N001 {IREF}
Ci N002 N003 220µ
XX2 N001 VDD N003 0 N004 cm_amp

* block symbol definitions
.subckt cm_amp IREF VDD VIN VSS VOUT
XU1 N001 N001 VDD VDD ptm180modp l=0.5u w=20u
XU2 IREF IREF VSS VSS ptm180modn l=0.5u w=10u
XU3 N004 IREF VSS VSS ptm180modn l=0.5u w=20u
XU4 N001 VIN N004 VSS ptm180modn l=0.5u w=20u
XU5 N002 VIN N004 VSS ptm180modn l=0.5u w=20u
XU6 N002 N001 VDD VDD ptm180modp l=0.5u w=20u
XU7 VOUT IREF VSS VSS ptm180modn l=0.5u w=200u
XU8 VOUT N002 VDD VDD ptm180modp l=0.5u w=400u
C1 N003 VOUT 4pC
R1 N003 N002 100R
.ends cm_amp

.ac dec 100 1 1Meg
.four {fsig} V(OUT)
.param IREF=0.1m
* Parameter Settings
* Simulation Settings
* Model Libraries
* Ex. Headphone amp test bench
.options plotwinsize=10
.lib ptm180mod_ttt.lib
.param VDD=1.8
.temp 25
.meas TRAN Pamp AVG V(VDD)*Ix(x1:VDD) FROM 1/{fsig} TO 2/{fsig}
.param vsig=70m
.param fsig=440
.meas TRAN Pload AVG V(out)*I(RL) FROM 1/{fsig} TO 2/{fsig}
.meas AC GainMax MAX V(OUT) FROM 20 TO 20k
.meas AC GainMin MIN V(OUT) FROM 20 TO 20k
;tran 10m
;noise V(OUT) V1 dec 100 1 1Meg
.meas NOISE VinrefNoise INTEG V(inoise) FROM 20 TO 20k
.four {fsig} V(IN)
.backanno
.end
